* C:\Users\leand\Dropbox\MATLAB\AE\LTSpice\final_project_noise.asc
vdd N001 0 1.1
vcm N006 0 0.2806
E1 vinn N006 N006 vinp 1
V1 vinp N006 SINE(0 100u 1k) AC 10m
Mp8 N002 N002 N001 N001 p_11_sprvt l=1u w=344.34u
Mp7 N003 N002 N001 N001 p_11_sprvt l=1u w=58.78u
Mp1 N005 vinn N003 N003 p_11_sprvt l=200n w=50.32u
Mp2 vinter vinp N003 N003 p_11_sprvt l=200n w=50.32u
Mn4 vinter N005 0 0 n_11_sprvt l=400n w=44.49u
Mn3 N005 N005 0 0 n_11_sprvt l=400n w=44.49u
Mn6 vout vinter 0 0 n_11_sprvt l=400n w=450.3u
Mp5 vout N002 N001 N001 p_11_sprvt l=1u w=344.34u
Rm vout N004 46.48
Cm N004 vinter 7.5p
Ibias N002 0 1.02m
Cload vout 0 30p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leand\Documents\LTspiceXVII\lib\cmp\standard.mos
.include BSIM4_UMC65.lib
.noise V(vout) V1 dec 20 1Meg 10G
.meas NOISE out_totnVrms INTEG V(onoise)
.meas NOISE out_mp1nVrms INTEG V(mp1)
.meas NOISE out_mp2nVrms INTEG V(mp2)
.meas NOISE out_mp7nVrms INTEG V(mp7)
.meas NOISE out_mp8nVrms INTEG V(mp8)
.meas NOISE out_mp5nVrms INTEG V(mp5)
.meas NOISE out_mn6nVrms INTEG V(mn6)
.meas NOISE out_mn4nVrms INTEG V(mn4)
.meas NOISE out_mn3nVrms INTEG V(mn3)
.meas NOISE out_rmnVrms INTEG V(rm)
* RMS total noise calculated at the output
* RMS noise contribution from each element seen at the output
.backanno
.end
