* C:\Users\leand\Dropbox\MATLAB\AE\LTSpice\final_project_pss.asc
vdd N001 0 1.1
vcm N006 0 0.5322
E1 vinn N006 N006 vinp 1
V1 vinp N006 SINE(0 {amp} 10k) AC 10m
Mp8 N002 N002 N001 N001 p_11_sprvt l=1u w=344.34u
Mp7 N003 N002 N001 N001 p_11_sprvt l=1u w=58.78u
Mp1 N005 vinn N003 N003 p_11_sprvt l=200n w=50.32u
Mp2 vinter vinp N003 N003 p_11_sprvt l=200n w=50.32u
Mn4 vinter N005 0 0 n_11_sprvt l=400n w=44.49u
Mn3 N005 N005 0 0 n_11_sprvt l=400n w=44.49u
Mn6 vout vinter 0 0 n_11_sprvt l=400n w=450.3u
Mp5 vout N002 N001 N001 p_11_sprvt l=1u w=344.34u
Rm vout N004 46.48
Cm N004 vinter 7.5p
Ibias N002 0 1.02m
Cload vout 0 30p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leand\Documents\LTspiceXVII\lib\cmp\standard.mos
.include BSIM4_UMC65.lib
.op
.tran 10m
.step dec param amp 1u 100m 3
.param amp=1n
.backanno
.end
